US09163021B2
Ethyl [5-cyclopropyl-2-(methoxymethyl)-1,3-oxazol-4-yl]acetate
Ethyl 4-Cyclopropyl-3-[(methoxyacetyl)amino]-4-oxobutanoate (Preparation 121, 25.7 g, 0.1 mol) was dissolved in dry DMF (170 mL). POCl3 (46 g, 0.3 mol) was poured into this solution at 5-15° C., and the mixture was kept this temperature for 60 minutes. The resulting solution was slowly poured in portions into crushed ice (700 g) and stirred until a homogeneous solution was obtained. The solution was neutralized with a 20% aqueous K2CO3 solution to pH 7-8. The product was extracted with ethyl acetate. The organic extract was washed with brine and concentrated in vacuo to give a dark-brown liquid, which was purified by silica gel column chromatography eluting with EtOAc:Hexane 1:1 to afford the title compound as a colourless liquid (96%). Taken directly on to the next step.

reactant | Ethyl 4-Cyclopropyl-3-[(methoxyacetyl)amino]-4-oxobutanoate | 0.1 mol, 25.7 g | C1(CC1)C(C(CC(=O)OCC)NC(COC)=O)=O | C12H19NO5
reactant | POCl3 | 0.3 mol, 46 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 170 mL | CN(C)C=O | C3H7NO
product | Ethyl [5-cyclopropyl-2-(methoxymethyl)-1,3-oxazol-4-yl]acetate | 96% | C1(CC1)C1=C(N=C(O1)COC)CC(=O)OCC | C12H17NO4
